US06916819B2
To a mixture of 6-isopropyl-pyridine-3,4-diamine hydrochloride (265 mg, 1.41 mmol) in 1,2-dichloroethane (10 mL) at room temperature under N2 is added 2.0 M AlMe3 in toluene (2.12 mL, 4.24 mmol). The mixture is stirred at room temperature for 45 min and then treated with a solution of (2-thiazol-2-yl-imidazol-1-yl)-acetic acid methyl ester (252 mg, 1.13 mmol) in 1,2-dichloroethane (2 mL) via cannula, followed by a 1 mL rinse. The reaction mixture is then stirred at reflux for 20 h. After cooling, the reaction mixture is diluted with some MeOH (˜2 mL), followed by some water and then saturated aq NaHCO3. The resulting mixture is stirred vigorously for 15 min. The mixture is then extracted thrice with CHCl3 containing some (˜5%) MeOH. The combined extracts are dried over Na2SO4 and concentrated. The crude residue is then triturated with CHCl3, and the resulting mixture filtered. The solid is washed with a small amount of CHCl3 and dried, affording N-(4-amino-6-isopropyl-pyridin-3-yl)-2-(2-thiazol-2-yl-imidazol-1-yl)-acetamide as an off-white solid. 1H NMR (DMSO-d6, 300 MHz) δ 9.52 (s, 1H), 7.86 (s, 1H), 7.85 (d, J=3.3 Hz, 1H), 7.75 (d, J=3.6 Hz, 1H), 7.39 (s, 1H), 7.04 (d, J=0.9 Hz, 1H), 6.45 (s, 1H), 5.65 (s, 2H), 5.38 (s, 2H), 2.74 (sept, J=6.9 Hz, 1H), 1.13 (d, J=6.9 Hz, 6H) ppm. The filtrate is concentrated and further purified by flash chromatography on silica gel. Elution with 20:1 CHCl3-MeOH followed by 15:1 CHCl3-MeOH affords 6-isopropyl-2-(2-thiazol-2-yl-imidazol-1-ylmethyl)-1H-imidazo[4,5-c]pyridine (160 mg, 44%). 1H NMR (CDCl3, 300 MHz) δ 12.23 (br, 1H), 8.97 (br, 1H), 7.94 (d, J=2.7 Hz, 1H), 7.43 (d, J=3.3 Hz, 1H), 7.23 (br, 1H), 7.20 (d, J=0.9 Hz, 1H), 7.04 (s, 1H), 5.82 (s, 2H), 3.14 (sept, J=6.9 Hz, 1H), 1.30 (d, J=6.9 Hz, 6H) ppm.

reactant | 6-isopropyl-pyridine-3,4-diamine hydrochloride | 1.41 mmol, 265 mg | Cl.C(C)(C)C1=CC(=C(C=N1)N)N
reactant | AlMe3 | 2.0 M | C[Al](C)C
reactant | toluene | 4.24 mmol, 2.12 mL | C1(=CC=CC=C1)C | C7H8
reactant | (2-thiazol-2-yl-imidazol-1-yl)-acetic acid methyl ester | 1.13 mmol, 252 mg | COC(CN1C(=NC=C1)C=1SC=CN1)=O | C9H9N3O2S
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
product | N-(4-amino-6-isopropyl-pyridin-3-yl)-2-(2-thiazol-2-yl-imidazol-1-yl)-acetamide | NC1=C(C=NC(=C1)C(C)C)NC(CN1C(=NC=C1)C=1SC=CN1)=O | C16H18N6OS
